US06900222B1
A mixture of 4-amino-1-(phenylmethyl)-4-piperidinemethanol (0.0182 mol) and 2-propenenitrile (0.0304 mol) in ethanol (80 ml) was stirred and refluxed over the weekend. 2-Propenenitrile (2 ml) was added. The mixture was stirred and refluxed for 5 hours. 2-Propenenitrile (2 ml) was added again. The mixture was stirred and refluxed overnight. The solvent was evaporated. The residue was purified over silica gel on a glass filter (eluent: CH2Cl2/(CH3OH/NH3) 95/5). The desired fractions were collected and the solvent was evaporated, yielding 3-[[4-(hydroxymethyl)-1-(phenylmethyl)-4-piperidinyl]amino]-propanenitrile (interm. 10).

reactant | 4-amino-1-(phenylmethyl)-4-piperidinemethanol | 0.0182 mol | NC1(CCN(CC1)CC1=CC=CC=C1)CO | C13H20N2O
reactant | 2-propenenitrile | 0.0304 mol | C(C=C)#N | C3H3N
reactant | 2-Propenenitrile | 2 ml | C(C=C)#N | C3H3N
reactant | 2-Propenenitrile | 2 ml | C(C=C)#N | C3H3N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 3-[[4-(hydroxymethyl)-1-(phenylmethyl)-4-piperidinyl]amino]-propanenitrile | OCC1(CCN(CC1)CC1=CC=CC=C1)NCCC#N | C16H23N3O
